US04476311
(A) 3-Methoxybenzylidenebenzylamine
A solution of 100 gm. of 3-methoxybenzaldehyde. 78.7 gm. of benzylamine, and 800 ml. of anhydrous ether was refluxed for 14 hours and then concentrated in vacuo to an oil. Distillation provided 144.3 gm. of clear oil, b.p. 152°-154° (1.2 Torr).

reactant | 3-methoxybenzaldehyde | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | ether | CCOCC | C4H10O
product | 3-Methoxybenzylidenebenzylamine | COC=1C=C(C=NCC2=CC=CC=C2)C=CC1 | C15H15NO
